US06025390
(E)-3-(Benzofuran-2-yl)-prop-2-enal.
A solution of benzofuran-2-carboxaldehyde (2.2 g, 15.1 mmol) and formylmethylenetriphenylphosphorane (4.6 g, 15.1 mmoles) in CH2Cl2 (150 mL) was refluxed for 6 hours. Another aliquot of formylmethylenetriphenylphosphorane (1.5 g, 4.93 mmol) was then added and the reflux continued overnight. The reaction mixture was cooled to RT, the solvent concentrated at reduced pressure and the residue was chromatographed on silicagel (n-heptane/EtOAc 4/1). The collected fractions were pooled and concentrated and the residue triturated with isopropyl ether to give, after drying, pure title compound (1.3 g, 7.55 mmol, yield 50.0%) as pale yellow crystals, m.p.=67°.

reactant | benzofuran-2-carboxaldehyde | 15.1 mmol, 2.2 g | O1C(=CC2=C1C=CC=C2)C=O | C9H6O2
reactant | formylmethylenetriphenylphosphorane | 15.1 mmoles, 4.6 g | C(=O)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C20H17OP
reactant | formylmethylenetriphenylphosphorane | 4.93 mmol, 1.5 g | C(=O)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C20H17OP
solvent | CH2Cl2 | 150 mL | C(Cl)Cl | CH2Cl2
product | (E)-3-(Benzofuran-2-yl)-prop-2-enal | 7.55 mmol, 1.3 g, yield 50.0% | O1C(=CC2=C1C=CC=C2)/C=C/C=O | C11H8O2
